US07875647B2
To a solution of carbontetrabromide (313 mg, 0.94 mmol) in methylene chloride (15 ml) at 0° C. was added triphenylphosphine (248 mg, 0.95 mmol). The reaction mixture was stirred at 0° C. for 10 minutes and then 3-(5-tert-butyl-1,3,4-oxadiazol-2-yl)-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carbaldehyde (300 mg, 0.63 mmol) in methylenechloride (10 ml) was added slowly. The reaction temperature was warmed slowly to room temperature and stirred overnight. The resulting solution was quenched with saturated ammonium chloride and extracted organic layer with ethyl ether (50 ml twice). After evaporation, crude residue was purified with silica gel column (hexane/ethyl acetate=5/1) to recover starting material (110 mg, 37%) and produce 2-tert-butyl-5-(5-(4-chlorophenyl)-4-(2,2-dibromovinyl)-1-(2,4-dichlorophenyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole (230 mg, 58% yield) as white solid.

reactant | carbontetrabromide | 0.94 mmol, 313 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.95 mmol, 248 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(5-tert-butyl-1,3,4-oxadiazol-2-yl)-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carbaldehyde | 0.63 mmol, 300 mg | C(C)(C)(C)C1=NN=C(O1)C1=NN(C(=C1C=O)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C22H17Cl3N4O2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-tert-butyl-5-(5-(4-chlorophenyl)-4-(2,2-dibromovinyl)-1-(2,4-dichlorophenyl)-1H-pyrazol-3-yl)-1,3,4-oxadiazole | 230 mg, 58% yield | C(C)(C)(C)C=1OC(=NN1)C1=NN(C(=C1C=C(Br)Br)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C23H17Br2Cl3N4O
